US05064861
STEP A: Ethyl 5,5,5-trifluoro-4-oxo-3-ethoxycarbonyl-pentanoate
200 g of diethyl succinate and 82 g of ethyl trifluoroacetate were mixed together and 13.2 g of sodium and 200 ml of ether were added over 5 minutes. The reaction medium was heated for 18 hours at 80° C., and then poured into 200 ml of iced 10N sulfuric acid. After decanting, drying and concentrating, the expected product was obtained which was used as is for the following step.

reactant | diethyl succinate | 200 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | ethyl trifluoroacetate | 82 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium | 13.2 g | [Na] | Na
reactant | sulfuric acid | 10N | S(O)(O)(=O)=O | H2O4S
solvent | ether | 200 ml | CCOCC | C4H10O
product | Ethyl 5,5,5-trifluoro-4-oxo-3-ethoxycarbonyl-pentanoate | FC(C(C(CC(=O)OCC)C(=O)OCC)=O)(F)F | C10H13F3O5
